US08461134B2
N-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzyl)acetamide
A solution of 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (500 mg, 1.5 mmol) in pyridine (15 ml) was stirred at room temperature for 30 mins. DCM (40 ml) and acetic anhydride (168 mg, 1.65 mmol) was then added to the mixture. And it was stirred at room temperature for overnight. The mixture was concentrated in vacuo and the residue was purified by prep. HPLC (column: Luna 300×50.0 mm, 10 u; liquid phase: [A-H2O+0.025% TFA; B-MeCN] B %: 10%-30%, 20 min) to give the title compound (226 mg, 40.2%) as a light yellow solid. 1H NMR: DMSO 400 MHz. δ9.99 (s, 1H), 9.19 (s, 1H), 8.24 (d, J=12.0 Hz, 1H), 7.52 (d, J=8.4 Hz, 1H), 7.43 (s, 1H), 7.21 (d, J=8.0 Hz, 1H), 7.12 (dd, J=10.0 Hz, 1H), 6.45 (s, 1H), 6.35 (dd, J=10.8 Hz, 1H), 5.95 (brs, 2H), 4.85 (s, 2H), 4.54 (s, 2H), 1.92 (s, 3H). ESI-MS m/z 374 (M−H, positive); HPLC purity: 90.13% (MaxPlot 190-370 nm), 96.33% (220 nm).

reactant | 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 1.5 mmol, 500 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CN | C14H16BN3O4S
reactant | DCM | 40 ml | C(Cl)Cl | CH2Cl2
reactant | acetic anhydride | 1.65 mmol, 168 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzyl)acetamide | 226 mg, 40.2% | NC=1C=CC(=C(CNC(C)=O)C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C16H18BN3O5S
